US04161592
36.9 g of cyanuric chloride in 200 ml of boiling acetone were slowly poured into 400 ml of ice water, whilst stirring. The temperature was maintained between 0° and 5° C. by means of external cooling. 71.6 g of 4-amino-2-tert.-butyl-6-methylphenol in 100 ml of acetone and 42.4 g of sodium carbonate in 100 ml of water were simultaneously added at 10° C. The mixture was stirred at 10° C. for one hour and then at room temperature for 16 hours. The reaction mixture was then poured into ice water and the precipitate was filtered off and recrystallised from ethanol. In this way, it was possible to isolate 35.5 g of white 2,4-bis-(3-tert.-butyl-5-methyl-4-hydroxyanilino)-6-chloro-1,3,5-triazine which melts at 214° C.

reactant | cyanuric chloride | 36.9 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | 4-amino-2-tert.-butyl-6-methylphenol | 71.6 g | NC1=CC(=C(C(=C1)C)O)C(C)(C)C | C11H17NO
reactant | sodium carbonate | 42.4 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 200 ml | CC(=O)C | C3H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
solvent | water | 100 ml | O | H2O
product | 2,4-bis-(3-tert.-butyl-5-methyl-4-hydroxyanilino)-6-chloro-1,3,5-triazine | 35.5 g | C(C)(C)(C)C=1C=C(NC2=NC(=NC(=N2)NC2=CC(=C(C(=C2)C)O)C(C)(C)C)Cl)C=C(C1O)C | C25H32ClN5O2
